US07071201B2
Example 101: Synthesis of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-bromoindoline
Triacetoxylated sodium borohydride (298 g) was added over 30 min to a mixture of 6-bromoindoline (175 g), 1-(4-fluorophenethyl)-4-piperidone (194 g), acetic acid (250 ml) and dichloroethane (2.5 l) followed by stirring 2 hr. Then the reaction solution was concentrated under reduced pressure, diluted with ethyl acetate (2 l), an 8 N aqueous solution of sodium hydroxide (1 l) and water (500 ml) and the layers were separated. The organic layer was washed successively with water (0.5 l) and brine (0.5 l), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in hot ethyl acetate (500 ml) and then cooled with ice water. The resulting crystalline precipitates were collected by filtration to give the title compound (205 g) (yield: 58%).

reactant | 6-bromoindoline | 175 g | BrC1=CC=C2CCNC2=C1 | C8H8BrN
reactant | 1-(4-fluorophenethyl)-4-piperidone | 194 g | FC1=CC=C(CCN2CCC(CC2)=O)C=C1 | C13H16FNO
reactant | dichloroethane | 2.5 l | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-bromoindoline | 205 g, yield: 58% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)Br)C=C1 | C21H24BrFN2
